US07902356B2
1-(2-Methoxy-4-nitro-benzyl)-4-methyl-piperazine
To a round bottom flask or vial containing 2-methoxy-4-nitro-benzaldehyde (1.0 g, 5.5 mmol), add dichloroethane (40 mL), 1-methylpiperazine (1.0 ml, 8.3 mmol), and sodium triacetoxyborohydride (3.5 g, 16.5 mmol). Stir at room temperature overnight. Quench with saturated aqueous NaHCO3 and extract with CH2Cl2 (1×) and EtOAc (2×). Combine the organic portions, dry over MgSO4, filter, and concentrate under vacuum. Purify the residue by flash chromatography on silica gel using a gradient of MeOH (0.005% NH4OH)/CH2Cl2 (5% to 10%) to give the title compound. MS (ES+) 266.0 (M+1)+. 1H NMR (CDCl3): δ 7.80 (dd, J=8 Hz, 2 Hz, 1H), 7.66 (d, J=2 Hz, 1H), 7.56 (J=8 Hz, 1H), 3.89 (s, 3H), 3.58 (s, 2H), 2.52 (br. 4H), 2.45 (br, 2H), 2.28 (s, 3H).

reactant | 2-methoxy-4-nitro-benzaldehyde | 5.5 mmol, 1.0 g | COC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | 1-methylpiperazine | 8.3 mmol, 1.0 ml | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 16.5 mmol, 3.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | 1-(2-Methoxy-4-nitro-benzyl)-4-methyl-piperazine | COC1=C(CN2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C13H19N3O3
